US07323475B2
c) 4-Mercapto-7-phenoxy-isoquinoline-3-carboxylic acid methyl ester
To a solution of 6.5 ml of 0.5 N sodium methoxide in methanol was added 460 mg of 4-Dimethylcarbamoylsulfanyl-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester. The resultant solution was heated to 50-60° C. for 8 hours, cooled to room temperature, and diluted with 10 ml water and 7.0 ml 1 N HCl. The resulting yellow precipitate was collected by filtering the solution through a (medium) porous buchner filter funnel to give 307 mg of product; MS (+) m/z 312.08 (M+1)

reactant | sodium methoxide | 0.5 N, 6.5 ml | C[O-].[Na+]
reactant | 4-Dimethylcarbamoylsulfanyl-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester | 460 mg | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1SC(N(C)C)=O)OC1=CC=CC=C1 | C23H24N2O4S
solvent | methanol | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | HCl | 1 N, 7.0 ml | Cl | ClH
product | 4-Mercapto-7-phenoxy-isoquinoline-3-carboxylic acid methyl ester | 307 mg | COC(=O)C=1N=CC2=CC(=CC=C2C1S)OC1=CC=CC=C1 | C17H13NO3S
